US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[4-methyl-2-[5-(piperazin-1-yl)carbonylpentyloxy]phenyl]benzamide (150 mg) in dichloromethane (15 ml) was treated with pyridine (0.04 ml) and trifluoroacetic anhydride (0.04 ml) at 0° C. After 30 minutes, the mixture was allowed to warm to ambient temperature and stirred for 1.5 hours. The reaction mixture was diluted with ethyl acetate and washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate, concentrated, and purified by column chromatography (SiO2; 30 g, ethyl acetate:n-hexane=1:1) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[4-methyl-2-[5-(4-trifluoroacetylpiperazin-1-yl)carbonylpentyloxy]phenyl]benzamide (80 mg).

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[4-methyl-2-[5-(piperazin-1-yl)carbonylpentyloxy]phenyl]benzamide | 150 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCNCC2)C)C=C1 | C39H44N4O4
reactant | pyridine | 0.04 ml | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 0.04 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[4-methyl-2-[5-(4-trifluoroacetylpiperazin-1-yl)carbonylpentyloxy]phenyl]benzamide | 80 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=C(C=C2)C)OCCCCCC(=O)N2CCN(CC2)C(C(F)(F)F)=O)C)C=C1 | C41H43F3N4O5
